US05498609
To a solution of 7-chloro-5-oxo-1-(6-aminonicotinoyl)-2,3,4,5-tetrahydro-1H-benzazepine (0.25 g) in pyridine (2 ml) is added with stirring 2-methylbenzoyl chloride (0.18 g) under ice-cooling, and the mixture is stirred at room temperature for one hour. To the reaction solution is added water, and the mixture is extracted with ethyl acetate. The extract is washed successively with 0.1N aqueous hydrochloric acid solution and water, and dried over magnesium sulfate. The resultant is evaporated under reduced pressure to remove the solvent, and the residue is purified by silica gel column chromatography to give 7-chloro-5-oxo-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.3 g) as colorless amorphous.

reactant | 7-chloro-5-oxo-1-(6-aminonicotinoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 0.25 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)N)=O)=O)C1 | C16H14ClN3O2
reactant | 2-methylbenzoyl chloride | 0.18 g | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | water | O | H2O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 7-chloro-5-oxo-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.3 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)=O)C1 | C24H20ClN3O3
